US09403846B2
Step 5: Synthesis of ({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)acetaldehyde (C97)
(2S)-2-[(1R)-1-(2,2-Diethoxyethoxyl)but-3-en-1-yl]tetrahydrofuran (C95) was converted to the product using the method described for the synthesis of ({1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-yl}oxy)acetaldehyde (C83) in Example 20. The resulting product was used in the next step without further purification. Yield: 6 g, ≦33 mmol, ≦35%.

reactant | (2S)-2-[(1R)-1-(2,2-Diethoxyethoxyl)but-3-en-1-yl]tetrahydrofuran | C(C)OC(CO[C@H](CC=C)[C@H]1OCCC1)OCC | C14H26O4
reactant | ({1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-yl}oxy)acetaldehyde | C[C@H]1[C@@H](C1)C(CC=C)OCC=O | C10H16O2
product | ({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)acetaldehyde | O1[C@@H](CCC1)[C@@H](CC=C)OCC=O | C10H16O3
